US06437184B1
To a mixture of 4.06 g of ethyl 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)valerate and 50 ml of toluene was added dropwise 10.27 ml of 0.95 mol/liter diisobutyl aluminum hydride (hexane solution) over 30 minutes with stirring at −70° C. in a stream of nitrogen gas. After further stirring at −70° C. for 1 hour, 50 ml of saturated aqueous ammonium chloride solution was added. The reaction mixture was returned to room temperature, and poured into 50 ml of diluted hydrochloric acid, and extracted twice with toluene. The toluene layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated, which afforded 3.52 g (yield, 96%) of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal.

reactant | ethyl 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)valerate | 4.06 g | ClC1=C(OCCCCC(=O)OCC)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C16H18Cl4O4
reactant | diisobutyl aluminum hydride | 0.95 mol/liter, 10.27 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal | 3.52 g, 96% | ClC1=C(OCCCCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C14H14Cl4O3
